US06479486B2
(1R*,2R*,4′S*,5S*)-4′-(2-Cyclopropyloxy-5-trifluoromethoxyphenyl)-2′,3′,4′,5′-tetrahydro-1-phenylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
Oxone (400 mg, 0.65 mmol) was added to a stirred mixture of (1R*,2R*,4′S*,5S*,6R*)-2′,3′,4′,5′-tetrahydro-4′-[2-(1-phenylthiocyclopropyloxy)-5-trifluoromethoxyphenyl]-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] (Description 17; 88 mg, 0.12 mmol), wet aluminium oxide (5 g of Al2O3 in 1 ml of water, 370 mg) and chloroform (5 ml) at room temperature. The reaction mixture was stirred for 5 hours then filtered and concentrated to give crude disulphone (95 mg). Sodium amalgam (10%, 700 mg) was added in small portions to the stirred mixture of the disulphone (95 mg), disodium hydrogen orthophosphate (700 mg), and methanol (5 ml) at +5° C. After reaction went to completion, the mixture was quenched with saturated aqueous NaHCO3, decanted and extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (dichloromethane:methanol) to give the title compound (34 mg, 60%).

reactant | Oxone | 0.65 mmol, 400 mg | OOS(=O)[O-].[K+]
reactant | (1R*,2R*,4′S*,5S*,6R*)-2′,3′,4′,5′-tetrahydro-4′-[2-(1-phenylthiocyclopropyloxy)-5-trifluoromethoxyphenyl]-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 0.12 mmol, 88 mg | C1(=CC=CC=C1)SC1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)[C@@H]1C[C@@]2(OC1)[C@@]1(C[C@H]([C@H](CC2)N1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C38H36F3NO5S2
reactant | aluminium oxide | 1 ml, 5 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | disodium hydrogen orthophosphate | 700 mg | P(=O)(O)([O-])[O-].[Na+].[Na+]
catalyst | Sodium amalgam | 700 mg | [Na].[Hg]
solvent | methanol | 5 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | (1R*,2R*,4′S*,5S*)-4′-(2-Cyclopropyloxy-5-trifluoromethoxyphenyl)-2′,3′,4′,5′-tetrahydro-1-phenylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 34 mg, 60% | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)[C@@H]1C[C@@]2(OC1)[C@@]1(CC[C@@H](CC2)N1)C1=CC=CC=C1 | C26H28F3NO3
